* Derived from analog-db tsn_002_ptat_classic, fixed commit
* 263d0322f8900dc331536fbbe6c0e804514fc454. Copyright 2026 Danial Noori Zadeh.
* See collection LICENSE and NOTICE, including CODA-Team attribution.
* Original four-MOS W/L/m and output-connected body retained.
* Added three-MOS startup; physical 20 kohm poly resistor and isolated well.
.subckt tsn_002_ptat_classic vdd vout vss
XR0 vout vss vss ppolyf_u_1k r_width=2u r_length=40u m=1
MM0 vmir net1 vout vout nfet_03v3_dn w=8u l=1u m=1
XM1 net1 net1 vss vss nfet_03v3 w=2u l=1u m=1
XM3 vmir vmir vdd vdd pfet_03v3 w=2u l=1u m=1
XM4 net1 vmir vdd vdd pfet_03v3 w=2u l=1u m=1
* Added MOS startup with self-disabling injection path; original core W/L and body unchanged.
XSTARTP startup vss vdd vdd pfet_03v3 w=0.42u l=20u m=1
XSTARTN startup net1 vss vss nfet_03v3 w=2u l=0.28u m=1
XINJECT net1 startup vdd vss nfet_03v3 w=0.42u l=1u m=1
.ends tsn_002_ptat_classic
